US09416115B2
Methyl 5-bromosalicylate (5 g, 21.6 mmol) was dissolved in 90 mL 1,4-dioxane and 10 mL water. 10 mL 50% aqueous hydroxylamine solution was added and the mixture was stirred at ambient temperature for 24 hours. After concentrating the mixture under vacuum, water was added. The formed precipitate was filtered, washed with water and dried yielding 5-bromo-N,2-dihydroxybenzamide (4.12 g, 17.76 mmol) as off-white solid.

reactant | Methyl 5-bromosalicylate | 21.6 mmol, 5 g | BrC1=CC=C(C(C(=O)OC)=C1)O | C8H7BrO3
reactant | hydroxylamine | 10 mL | NO | H3NO
solvent | 1,4-dioxane | 90 mL | O1CCOCC1 | C4H8O2
solvent | water | 10 mL | O | H2O
product | 5-bromo-N,2-dihydroxybenzamide | 17.76 mmol, 4.12 g | BrC=1C=CC(=C(C(=O)NO)C1)O | C7H6BrNO3
